US04407799
Synthesis of 2-(4-methoxyphenyl)-1,3-perhydrothiazine-4-one
A mixture of 13.6 g of p-anisaldehyde and 10.5 g of 3-mercaptopropionic acid amide in 150 ml of benzene was heated at 80° C. for 2 hours. The crystals which separated out after leaving the reaction mixture for a night were collected by filtration and recrystallized from hot benzene to obtain colourless minute aciculates melting at 185.5° to 186.5° C. in an amount of 21 g corresponding to a yield of 94%.

reactant | p-anisaldehyde | 13.6 g | C(C1=CC=C(C=C1)OC)=O | C8H8O2
reactant | 3-mercaptopropionic acid amide | 10.5 g | SCCC(=O)N | C3H7NOS
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 2-(4-methoxyphenyl)-1,3-perhydrothiazine-4-one | yield of 94% | COC1=CC=C(C=C1)C2NC(=O)CCS2 | C11H13NO2S
